US04304728
Ethyl 6-(4-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate
1,5-Diazabicyclo[4.3.0]non-5-ene (3.2 g) was added dropwise to a stirred solution of ethyl 5,6-dibromo-2,4-dioxo-6-(4-methoxyphenyl)hexanoate (5.6 g) in dimethylsulphoxide (30 ml) maintained at a temperature of 15°-20° C. After 30 minutes at room temperature, water (50 ml) and petroleum ether 40°-60° C. (20 ml) were added with cooling. The yellow solid which precipitated was filtered off and recrystallised from ethanol-water. A second recrystallisation from ethyl acetate-petroleum ether 60°-80° C. yielded the title product as yellow needles (mp 131°-133° C. with sublimation).

reactant | 1,5-Diazabicyclo[4.3.0]non-5-ene | 3.2 g | N12CCCN=C2CCC1 | C7H12N2
reactant | ethyl 5,6-dibromo-2,4-dioxo-6-(4-methoxyphenyl)hexanoate | 5.6 g | BrC(C(CC(C(=O)OCC)=O)=O)C(C1=CC=C(C=C1)OC)Br | C15H16Br2O5
reactant | water | 50 ml | O | H2O
solvent | dimethylsulphoxide | 30 ml | CS(=O)C | C2H6OS
product | Ethyl 6-(4-methoxyphenyl)-4-oxo-4H-pyran-2-carboxylate | COC1=CC=C(C=C1)C1=CC(C=C(O1)C(=O)OCC)=O | C15H14O5
